US08222246B2
e) (E)-Methyl 6-((3-(5-fluoropyridin-2-yl)-5-styrylisoxazol-4-yl)methoxy)nicotinate
To a suspension of sodium hydride (129 mg, 3.22 mmol) in THF (4.5 mL) was added a solution of (E)-(3-(5-fluoropyridin-2-yl)-5-styrylisoxazol-4-yl)methanol (866 mg, 2.92 mmol) in THF (9 mL) at room temperature. The reaction mixture was stirred for 1 h at room temperature. A solution of methyl 6-chloronicotinate (602 mg, 3.51 mmol) in THF (9 mL) was added. The reaction was stirred at room temperature overnight and water (150 mL) and saturated aqueous ammonium chloride solution (100 mL) were added. Extraction with ethyl acetate and chromatography (silica, ethyl acetate:heptane=1:9 to 2:3) afforded the title compound (906 mg, 66%) as a white solid. MS: m/e=432.2 [M+H]+.

reactant | sodium hydride | 3.22 mmol, 129 mg | [H-].[Na+]
reactant | (E)-(3-(5-fluoropyridin-2-yl)-5-styrylisoxazol-4-yl)methanol | 2.92 mmol, 866 mg | FC=1C=CC(=NC1)C1=NOC(=C1CO)\C=C\C1=CC=CC=C1 | C17H13FN2O2
reactant | methyl 6-chloronicotinate | 3.51 mmol, 602 mg | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | water | 150 mL | O | H2O
product | (E)-Methyl 6-((3-(5-fluoropyridin-2-yl)-5-styrylisoxazol-4-yl)methoxy)nicotinate | 906 mg, 66% | FC=1C=CC(=NC1)C1=NOC(=C1COC1=NC=C(C(=O)OC)C=C1)\C=C\C1=CC=CC=C1 | C24H18FN3O4
